US06864367B2
To a solution of 4-(2-formylphenoxy)butyric acid ethylester (2.4 g) in diethyl carbonate (24 ml), a solution of 20% sodium ethoxide in ethanol (4.1 g) was added at room temperature, and the solution was stirred at 50° C. for 1 hour. The solution was allowed to cool to room temperature, and neutralized with 1N hydrochloric acid. After ethyl acetate extraction, the organic layer was washed with saturated salt water, dried over anhydrous sodium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1) and concentration of the appropriate eluate gave colorless oil of 2,3-dihydro-1-benzoxepin-4-carboxylic acid ethylester (1.3 g, yield 61%).

reactant | 4-(2-formylphenoxy)butyric acid ethylester | 2.4 g | C(C)OC(CCCOC1=C(C=CC=C1)C=O)=O | C13H16O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl carbonate | 24 ml | C(OCC)(OCC)=O | C5H10O3
solvent | ethanol | 4.1 g | C(C)O | C2H6O
product | 2,3-dihydro-1-benzoxepin-4-carboxylic acid ethylester | 1.3 g, yield 61% | C(C)OC(=O)C=1CCOC2=C(C1)C=CC=C2 | C13H14O3
